US08207168B2
A suspension of 5-hydroxy-4-(4-methoxyphenyl)-5H-furan-2-one (2.06 g, 10 mmol) in 30 mL of ethanol was stirred as methylhydrazine (0.78 mL, 1.5 eq) was added dropwise. The reaction was heated to reflux at 85° C. for 2 h, then the solvent was reduced at reduced pressure to give a solid, which was collected and washed with cold EtOH to give 1.0 g (46%) of 5-(4-methoxy-phenyl)-2-methyl-2H-pyridazin-3-one: MS m/z 217 (M+H).

reactant | 5-hydroxy-4-(4-methoxyphenyl)-5H-furan-2-one | 10 mmol, 2.06 g | OC1C(=CC(O1)=O)C1=CC=C(C=C1)OC | C11H10O4
reactant | methylhydrazine | 0.78 mL, 1.5 eq | CNN | CH6N2
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 5-(4-methoxy-phenyl)-2-methyl-2H-pyridazin-3-one | 1.0 g, 46% | COC1=CC=C(C=C1)C1=CC(N(N=C1)C)=O | C12H12N2O2
